US05135955
70.2 Grams of 4-[(2-ethylhexyl)oxy]benzaldehyde (prepared as described in the preceding paragraph) and 38.6 g of phenylacetonitrile were added to 800 ml of methanol and stirred cold (10°-15° C.). To this was added (dropwise) 125 ml of aqueous sodium hydroxide (50 percent) with continued stirring at 10°-15° C. for an additional two hours. The mixture was then stirred overnight at room temperature and then poured into cold water and extracted with ethyl acetate. The extract was dried and evaporated to yield α-[[4-(2-ethylhexyloxy)phenyl]methylene]benzeneacetonitrile which was catalytically reduced as follows.

reactant | 4-[(2-ethylhexyl)oxy]benzaldehyde | C(C)C(COC1=CC=C(C=O)C=C1)CCCC | C15H22O2
reactant | phenylacetonitrile | 38.6 g | C1(=CC=CC=C1)CC#N | C8H7N
reactant | methanol | 800 ml | CO | CH4O
reactant | sodium hydroxide | 125 ml | [OH-].[Na+]
solvent | water | O | H2O
product | α-[[4-(2-ethylhexyloxy)phenyl]methylene]benzeneacetonitrile | C(C)C(COC1=CC=C(C=C1)C=C(C#N)C1=CC=CC=C1)CCCC | C23H27NO
